US04284641
Crotyl chloride (3.2 g; 35 m mole) in methanol (35 ml) was added dropwise with stirring during 3.5 hours to a refluxing mixture of imidazole (11.9 g; 175 m mole) and sodium bicarbonate (2.95 g; 35 m mole) in methanol (35 ml). When the addition was complete the reaction mixture was refluxed for 24 hours, the solvent evaporated and the residue dissolved in water (60 ml) and extracted with chloroform (3×20 ml). The combined extracts were washed with saturated aqueous sodium chloride solution (25 ml), dried over magnesium sulphate and concentrated under reduced pressure. The residue was fractionally distilled to yield 1-crotylimidazole as a colourless oil, b.p. 123°-124° C./18 mmHg.

reactant | Crotyl chloride | 3.2 g | C(C=CC)Cl | C4H7Cl
reactant | imidazole | 11.9 g | N1C=NC=C1 | C3H4N2
reactant | sodium bicarbonate | 2.95 g | C([O-])(O)=O.[Na+]
solvent | methanol | 35 ml | CO | CH4O
solvent | methanol | 35 ml | CO | CH4O
product | 1-crotylimidazole | C(C=CC)N1C=NC=C1 | C7H10N2
